US04623657
5-Bromo-3-(3-dimethylaminopropenyl)-spiro[benzofuran-2(3H),1'-cycloheptane] hydrochloride
A solution of 2.58 g of 5-bromo-3-(3-dimethylaminopropyl)-3-hydroxy-spiro[benzofuran-2(3H),1'-cycloheptane] in 60 ml of absolute ethanol containing 5 ml of concentrated hydrochloric acid was refluxed under nitrogen for 1 hour, at which point TLC showed no starting material. The mixture was concentrated in vacuo to a solid. This material was triturated with ether, filtered and dried to afford 2.45 g of a solid, m.p. 207.5°-212° C. This material was combined with another batch of crude salt previously prepared in a similar manner. Recrystallization twice from absolute ethanol/ether afforded 1.38 g of a solid, m.p. 215°-217.5° C.

reactant | 5-bromo-3-(3-dimethylaminopropyl)-3-hydroxy-spiro[benzofuran-2(3H),1'-cycloheptane] | 2.58 g | BrC=1C=CC2=C(C(C3(CCCCCC3)O2)(O)CCCN(C)C)C1 | C19H28BrNO2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-Bromo-3-(3-dimethylaminopropenyl)-spiro[benzofuran-2(3H),1'-cycloheptane] hydrochloride | 2.45 g | Cl.BrC=1C=CC2=C(C(C3(CCCCCC3)O2)C=CCN(C)C)C1 | InChI=1S/C19H26BrNO.ClH/c1-21(2)13-7-8-17-16-14-15(20)9-10-18(16)22-19(17)11-5-3-4-6-12-19;/h7-10,14,17H,3-6,11-13H2,1-2H3;1H
